US05958942
1,2-Dihydro-3-methyl-1-[4-(trifluoromethanesulfonamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one·hydrochloride
To a solution of 7.05 g (28.9 mmol) of 1-[4-(amino)butan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one and 8.04 ml (57.7 mmol) of triethylamine in 300 ml of methylene chloride was added, while stirring at room temperature, 20.62 g (57.7 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for 8 hours at the same temperature. The reaction mixture was washed with water, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate) to give a solid, washed with ether to afford 6.17 g of the desired compound (56.8%, pale yellow solid substance), m.p.195.0-196.0° C.

reactant | 1-[4-(amino)butan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 28.9 mmol, 7.05 g | NCCCCN1C(C=2N3C(C=CC=C13)=NC2C)=O | C13H16N4O
reactant | triethylamine | 57.7 mmol, 8.04 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 57.7 mmol, 20.62 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1,2-Dihydro-3-methyl-1-[4-(trifluoromethanesulfonamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one·hydrochloride | 6.17 g, 56.8% | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCNS(=O)(=O)C(F)(F)F)=O.Cl | InChI=1S/C14H15F3N4O3S.ClH/c1-9-12-13(22)20(11-6-4-5-10(19-9)21(11)12)8-3-2-7-18-25(23,24)14(15,16)17;/h4-6,18H,2-3,7-8H2,1H3;1H
